US08039639B2
Step B: Preparation of 5-Fluoro-2-hydroxybenzonitrile 63:
Dry 10% Pd/C (2.48 g) was placed in a 5 L flask under N2. A solution of 2-(benzyloxy)-5-fluorobenzonitrile (148 g, 651 mmol) in methanol (2.34 L) was added slowly under N2. The air of the flask was removed by vacuum and the flask was charged with H2 (balloon) three times. The mixture was stirred at room temperature for 1 hour. The above process was repeated two more times to push the reaction to completion. The mixture was stirred at room temperature for another 2 hours. The mixture was filtered through a Celite pad under N2 and washed with EtOAc (150 mL×2). The palladium waste was rinsed with water (50 mL) and discarded. The filtrates were concentrated to give (94.6 g, 106%) of the desired compound as a yellow solid. MS (APCI-) m/z 137 (M−1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 11.07 (br, 1H), 7.58 (dd, 1H, J=3.2 Hz, J=8.2 Hz), 7.43 (m, 1H), 6.91-7.03 (dd, 1H J=4.5 Hz, J=9.2 Hz).

reactant | 2-(benzyloxy)-5-fluorobenzonitrile | 651 mmol, 148 g | C(C1=CC=CC=C1)OC1=C(C#N)C=C(C=C1)F | C14H10FNO
solvent | methanol | 2.34 L | CO | CH4O
product | 5-Fluoro-2-hydroxybenzonitrile | 94.6 g, 106% | FC=1C=CC(=C(C#N)C1)O | C7H4FNO
